US07531532B2
4-(4-Aminophenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine
2-{[4-(1-Methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}-4-(4-nitrophenoxy)pyridine (163 mg) was dissolved in tetrahydrofuran (20 ml). After adding 20% palladium hydroxide-carbon (104 mg), the mixture was stirred overnight under a hydrogen atmosphere. The catalyst was filtered and washed with tetrahydrofuran. The filtrate and the washings were combined and concentrated under reduced pressure, and the resultant residue was dried under reduced pressure to provide the title compound (149 mg, 98%) as pale yellow powder.

reactant | 2-{[4-(1-Methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}-4-(4-nitrophenoxy)pyridine | 163 mg | CN1CCN(CC1)C1CCN(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C22H28N6O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium hydroxide carbon | 104 mg | [OH-].[Pd+2].[OH-].[C]
product | 4-(4-Aminophenoxy)-2-{[4-(1-methylpiperazin-4-yl)piperidin-1-yl]carbonylamino}pyridine | 149 mg, 98% | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCN(CC2)C)C=C1 | C22H30N6O2
